US09216980B2
Step 3: 6-(1-Methyl-1H-pyrazol-4-yl)-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-bromo-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (0.15 g, 0.30 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (0.13 g, 0.60 mmol) and 1,1′-[bis(diphenyl phosphino)ferrocene]dichloropalladium(II)(25 mg, 0.03 mmol) in acetonitrile (3 mL) and saturated aqueous sodium carbonate solution (3 mL) was heated under microwave irradiation at 130° C. for 30 minutes. The cooled reaction mixture was partitioned between DCM and water then separated on a hydrophobic frit. The organic phase was evaporated then the resultant residue was purified by flash chromatography (silica, 12 g column, ISCO, 0-10% methanol in DCM) to afford a residue which was purified by HPLC (C18 column, 50-98% MeCN in water (plus 20 mM triethylamine) to afford the title compound (46 mg, 31%). 1H NMR (DMSO-D6, 400 MHz): 12.15 (s, 1H), 8.94-8.88 (m, 2H), 8.86 (d, J=1.1 Hz, 1H), 8.51 (d, J=1.1 Hz, 1H), 8.21 (s, 1H), 7.99 (d, J=0.8 Hz, 1H), 7.78 (d, J=8.0 Hz, 2H), 7.46 (d, J=8.0 Hz, 2H), 3.92 (s, 3H), 3.56 (s, 2H), 2.99-2.88 (m, 2H), 2.39-2.19 (m, 1H), 2.00 (t, J=1.5 Hz, 2H), 1.85-1.94 (m, 2H), 1.57-1.38 (m, 2H). LCMS (Method A): RT=5.22 min, M+H+=491.

reactant | 6-bromo-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.30 mmol, 0.15 g | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)C(F)(F)F | C23H20BrF3N4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.60 mmol, 0.13 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 3 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 6-(1-Methyl-1H-pyrazol-4-yl)-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 46 mg, 31% | CN1N=CC(=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)C(F)(F)F | C27H25F3N6
